US08053438B2
STEP 1: ETHYL 4-(4-METHOXYBENZYLOXY)BENZOATE
To a stirred solution of ethyl 4-hydroxybenzoate (530 g, 3.19 mol) in DMF (6 L) were added K2CO3 powder (1102 g, 7.97 mol, 2.5 eq.), NaI (1195 g, 7.97 mol, 2.5 eq.) and PMB-Cl (599.4 g, 3.83 mol, 1.2 eq.) at ambient temperature. The reaction mixture was heated at 50° C. overnight under nitrogen atmosphere. The reaction mixture was cooled to ambient temperature and ice-water (9 L) was added to the reaction mixture. The resulting solid was filtered and washed with water (5 L), dried at 40° C. under vacuum to obtain product.

reactant | ethyl 4-hydroxybenzoate | 3.19 mol, 530 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | K2CO3 | 7.97 mol, 1102 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 7.97 mol, 1195 g, 2.5 eq. | [Na+].[I-]
reactant | PMB-Cl | 3.83 mol, 599.4 g, 1.2 eq. | C(C1=CC=C(OC)C=C1)Cl | C8H9ClO
solvent | DMF | 6 L | CN(C)C=O | C3H7NO
product | ETHYL 4-(4-METHOXYBENZYLOXY)BENZOATE | COC1=CC=C(COC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H18O4
